US08304419B2
Step D: 4-chloro-2-propyl-1H-imidazole-5-carbaldehyde
A solution of (4-chloro-2-propyl-1H-imidazol-5-yl)methanol (0.927 g, 5.3 mmol) and manganese dioxide (2 g, 23.0 mmol) in CH2Cl2 (12 mL) and 1,4-dioxane (6 mL) was heated under reflux for 6 h. The reaction mixture was cooled to RT, then filtered through celite, washing thoroughly with CH2Cl2. The filtrate was concentrated and dried to provide the title compound (0.541 g, 59%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 11.61 (br. s., 1H), 9.63 (s, 1H), 2.80 (t, 2H), 1.83 (sex, 2 H), 0.99 (t, 3H). ES-LCMS: m/z 173.0 (M+1).

reactant | (4-chloro-2-propyl-1H-imidazol-5-yl)methanol | 5.3 mmol, 0.927 g | ClC=1N=C(NC1CO)CCC | C7H11ClN2O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 23.0 mmol, 2 g | [O-2].[O-2].[Mn+4]
product | 4-chloro-2-propyl-1H-imidazole-5-carbaldehyde | 0.541 g, 59% | ClC=1N=C(NC1C=O)CCC | C7H9ClN2O
